US07148226B2
6-[2-(3-chloro-4-methoxyphenyl)ethyl]-6-cyclopentyl-4-hydroxy-3-(1H-imidazol-2-ylthio)-5,6-dihydro-2H-pyran-2-one
The title compound was prepared as described in Example C(70), where 3-chloro-6-[2-(3-chloro-4-methoxyphenyl)ethyl]-6-cyclopentyldihydro-2H-pyran-2,4(3H)-dione was used in place of 3-chloro-6-[2-(5-chloro-2,4-dimethoxyphenyl)ethyl]6-cyclopentyldihydro-2H-pyran-2,4(3H)-dione and 2-mercaptoimidazole was used in place of 6-hydroxy-8-mercaptopurine monohydrate.

reactant | 3-chloro-6-[2-(3-chloro-4-methoxyphenyl)ethyl]-6-cyclopentyldihydro-2H-pyran-2,4(3H)-dione | ClC1C(OC(CC1=O)(C1CCCC1)CCC1=CC(=C(C=C1)OC)Cl)=O | C19H22Cl2O4
reactant | 2-mercaptoimidazole | SC=1NC=CN1 | C3H4N2S
product | 6-[2-(3-chloro-4-methoxyphenyl)ethyl]-6-cyclopentyl-4-hydroxy-3-(1H-imidazol-2-ylthio)-5,6-dihydro-2H-pyran-2-one | ClC=1C=C(C=CC1OC)CCC1(CC(=C(C(O1)=O)SC=1NC=CN1)O)C1CCCC1 | C22H25ClN2O4S
